US05530138
2-[(1-Azabicyclo[3.3.0]octan-5-yl)methylamino]benzonitrile
The procedures described in Example 1 were repeated except that 2-fluorobenzonitrile (671 mg, 5.54 mmol) and 5-aminomethyl-1-azabicyclo[3.3.0]octane (1.94 g, 13.9 mmol) were employed. In this case, the desired compound was obtained as a colorless liquid (1.26 g, 94.2%).

reactant | 2-fluorobenzonitrile | 5.54 mmol, 671 mg | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | 5-aminomethyl-1-azabicyclo[3.3.0]octane | 13.9 mmol, 1.94 g | NCC12CCCN2CCC1 | C8H16N2
product | 2-[(1-Azabicyclo[3.3.0]octan-5-yl)methylamino]benzonitrile | N12CCCC2(CCC1)CNC1=C(C#N)C=CC=C1 | C15H19N3
